US05700801
(1) Methyl 4-[α-bromo-acetyl)-phenylacetate
Prepared from methyl 4-acetyl-phenylacetate and bromodioxan.

reactant | methyl 4-acetyl-phenylacetate | C(C)(=O)C1=CC=C(C=C1)CC(=O)OC | C11H12O3
reactant | bromodioxan | BrC1OCCOC1 | C4H7BrO2
product | Methyl 4-[α-bromo-acetyl)-phenylacetate | BrCC(=O)C1=CC=C(C=C1)CC(=O)OC | C11H11BrO3
